US06586633B1
Production of 3′-Methylpropiophenone
Magnesium turnings (1.00 g; 41.2 mmol) and iodine (two or three granules) were added to anhydrous diethyl ether (10 ml). While the mixture was stirred and heated under nitrogen atmosphere, m-bromotoluene (7.04 g; 41.2 mmol) in anhydrous diethyl ether (20 ml) was slowly added dropwise. The heating was ceased when spontaneous reflux started. After completion of the reflux, the mixture was brought to room temperature, and propionitrile (1.89 g; 34.3 mmol) in anhydrous diethyl ether (20 ml) was added dropwise. After completion of spontaneous reflux, the mixture was left to cool to room temperature. While the mixture was cooled in an ice bath, water and cooled diluted sulfuric acid were added dropwise in a sequential manner, followed by extraction with diethyl ether (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution and then with saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1), to thereby yield 2.38 g of the target compound as pale yellow oily matter (yield: 46.8%).

reactant | Magnesium | 41.2 mmol, 1.00 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | m-bromotoluene | 41.2 mmol, 7.04 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | propionitrile | 34.3 mmol, 1.89 g | C(CC)#N | C3H5N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 3′-Methylpropiophenone | yield: 46.8% | CC=1C=C(C=CC1)C(CC)=O | C10H12O
